2184-10-19 07:33:00 Physician Resident Progress Note
Chief Complaint: Fever, rigors, hypoxia
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2184-10-18**] 06:19 PM
 URINE CULTURE - At [**2184-10-18**] 08:39 PM
   - Per ID, ordered beta-glucan, serum galactomannan, urine Legionella,
   urine histoplasma antigen, quantitative immunoglobulins, ESR/CRP.  Also
   added azithromycin.
   - CT sinus in AM
   - Started meropenem, vancomycin, voriconazole, azithromycin,
   atovaquone, acylcovir.
   History obtained from Patient
   Allergies:
   History obtained from PatientBenadryl Allergy (Oral) (Diphenhydramine
   Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Vancomycin - [**2184-10-18**] 04:30 PM
   Azithromycin - [**2184-10-18**] 08:38 PM
   Meropenem - [**2184-10-19**] 05:32 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2184-10-18**] 05:45 PM
   Heparin Sodium (Prophylaxis) - [**2184-10-18**] 11:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-19**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 93 (83 - 103) bpm
   BP: 130/67(83) {85/48(57) - 142/78(94)} mmHg
   RR: 14 (13 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111 kg (admission): 111 kg
    CVP: 14 (4 - 14)mmHg
   Total In:
                                                                  5,855 mL
                                                                    225 mL
   PO:
                                                                    230 mL
   TF:
   IVF:
                                                                  3,625 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                    555 mL
                                                                    490 mL
   Urine:
                                                                    555 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,300 mL
                                                                   -265 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.41/41/80.[**Numeric Identifier 248**]/25/0
   Physical Examination
   Gen: NAD
   Heent: Perrl, MMM, OP clear, neck supple
   Pulm: Bibasilar Rales
   CV: Nl S1+S2
   Abd: S/NT/ND +bs
   Ext: 2+ LE, UE edema, WWP
   Skin: No erythema around left anterior hickman site.
   Musculoskeletal: No point tenderness to palpation along spine.
   Neuro: Aox3
   Labs / Radiology
   54 K/uL
   8.2 g/dL
   123 mg/dL
   1.8 mg/dL
   25 mEq/L
   4.8 mEq/L
   37 mg/dL
   111 mEq/L
   140 mEq/L
   25.7 %
   10.7 K/uL
        [image002.jpg]
                             [**2184-10-18**]  06:08 PM
                             [**2184-10-19**]  04:05 AM
                             [**2184-10-19**]  04:33 AM
   WBC
   10.7
   Hct
   25.7
   Plt
   54
   Cr
   1.8
   TCO2
   23
   27
   Glucose
   123
   Other labs: Differential-Neuts:88.6 %, Lymph:3.9 %, Mono:5.4 %, Eos:1.9
   %, Lactic Acid:0.7 mmol/L, Ca++:7.0 mg/dL, Mg++:1.5 mg/dL, PO4:3.3
   mg/dL
   ABG 7.41/41/80
   Assessment and Plan
   Mr. [**Known lastname 1414**] is a 53 year old gentleman with a PMH significant for
   AML recently admitted for cellulitis treated with clindamycin and
   ciprofloxacin admitted from clinic with fevers, rigors, and
   questionable worsening back pain.
   .
   # Infection: Pt with fevers/rigors, tachycardia, and hypotension on
   admission with no obvious infectious source.  Overnight, CVL was
   maintained >8, SvO2 was 78%, and patient was normotensive after
   receiving 4L IVF.  Per ID, patient was started on meropenem,
   vancomycin, and azithromycin in addition to home voriconazole,
   atovaquone, and acylovir.  Uncertain source to infection at this time.
   Patient with past cellulitis, so this may represent deep
   infection/abscess that has not presented to date.  This may also be SBE
   given recurrent fevers from last admission or line infection.  Finally,
   this may represent worsening of funal sinus infection.
   - Monitor fever curve and CBC
   - f/u blood, urine, sputum cultures, urinary Legionella, urinary
   Histoplasma, nasal viral screen
   - Continue broad coverage with vancomycin and meropenem
   - f/u ID recs
   - stress dose steroids
   - CT sinus
   - Hold of on MR spine for now.
   .
   # Hypotension: Patient currently normotensive.  He is edematous this
   morning including upper extremities, but will hold off on resuming home
   lasix and observe patient for hemodynamic instability today.  Would
   consider diuresis tomorrow.
   .
   # Hypoxia: Uncertain etiology at this point, although patient has known
   BOOP treated with steroids and cellcept.
   - Continue steroids and cellcept
   - Wean supplemental O2
   .
   # Chronic renal Insufficiency: Elevated Cr since [**Month (only) 705**] between
   1.4-1.8. Currently stable since last prior admission
   - Monitor creatinine
   - Avoid nephrotoxins
   .
   # Thrombocytopenia: Likely secondary to malignancy and currently at
   baseline.
   - Trend plt count.
   - Tranfuse for plt <10 or higher with signs of active bleeding.
   .
   # AML: S/p cord transplant now in remission
   - f/u with oncology
   .
   # BOOP: On chronic steroids and cellcept
   - stress dose steroids, continue cellcept.
   .
   # Aspergillosis: Continue voriconazole
   .
   # HTN:
   - holding carvedilol given recent hemodynamic instability. Restart
   tomorrow if patient stable today.
   .
   # FEN: Regular, replete as necessary
   .
   # PPX: Acyclovir, Pantoprazole, heparin SC, bowel regimen
   .
   # CODE: Full
   .
   # CONTACT: Wife, H [**Telephone/Fax (1) 1421**], C [**Telephone/Fax (1) 5854**]
   .
   # DISPO: Likely call out today to OMED
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2184-10-18**] 06:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-10-19 09:41:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2184-10-18**] 06:19 PM
 URINE CULTURE - At [**2184-10-18**] 08:39 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Vancomycin - [**2184-10-18**] 04:30 PM
   Azithromycin - [**2184-10-18**] 08:38 PM
   Meropenem - [**2184-10-19**] 05:32 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2184-10-18**] 05:45 PM
   Pantoprazole (Protonix) - [**2184-10-19**] 08:35 AM
   Heparin Sodium (Prophylaxis) - [**2184-10-19**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Musculoskeletal: edema
   Heme / Lymph: s/p AML
   Allergy / Immunology: Immunocompromised
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2184-10-19**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98.1
   HR: 96 (83 - 103) bpm
   BP: 133/74(87) {85/48(57) - 142/78(94)} mmHg
   RR: 17 (13 - 19) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111 kg (admission): 111 kg
   CVP: 14 (4 - 14)mmHg
   Total In:
                                                                  5,855 mL
                                                                    495 mL
   PO:
                                                                    230 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  3,625 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                    555 mL
                                                                    990 mL
   Urine:
                                                                    555 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,300 mL
                                                                   -495 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.41/41/80.[**Numeric Identifier 248**]/25/0
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, no rash
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   54 K/uL
   123 mg/dL
   1.8 mg/dL
   25 mEq/L
   4.8 mEq/L
   37 mg/dL
   111 mEq/L
   140 mEq/L
   25.7 %
   10.7 K/uL
        [image002.jpg]
                             [**2184-10-18**]  06:08 PM
                             [**2184-10-19**]  04:05 AM
                             [**2184-10-19**]  04:33 AM
   WBC
   10.7
   Hct
   25.7
   Plt
   54
   Cr
   1.8
   TCO2
   23
   27
   Glucose
   123
   Other labs: Differential-Neuts:88.6 %, Lymph:3.9 %, Mono:5.4 %, Eos:1.9
   %, Lactic Acid:0.7 mmol/L, Ca++:7.0 mg/dL, Mg++:1.5 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   Sespis
   AML
   S/P Cord transplant
   H/O cellulitis
   H/O BOOP
   Immunosuppression
   Renal Failure, chronic
   Thrombocytopenia
   Markedly improved. Rapidity of response most c/w a bacterial
   infection/sepsis but we have no source. Recent abx heighten suspicion
   of C diff, line infection, recurrent cellulitis but will need to watch
   him carefully.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2184-10-18**] 06:19 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2184-10-20 07:37:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - STOP [**2184-10-19**] 04:09 PM
 FEVER - 102.6
F - [**2184-10-19**] 11:30 PM
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Azithromycin - [**2184-10-18**] 08:38 PM
   Amikacin - [**2184-10-19**] 10:05 PM
   Vancomycin - [**2184-10-19**] 11:00 PM
   Meropenem - [**2184-10-20**] 05:56 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-10-19**] 08:35 AM
   Heparin Sodium (Prophylaxis) - [**2184-10-19**] 08:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-20**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 36.4
C (97.6
   HR: 85 (85 - 155) bpm
   BP: 140/90(102) {106/54(67) - 180/103(118)} mmHg
   RR: 29 (15 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111 kg (admission): 111 kg
    CVP: 11 (11 - 20)mmHg
   Total In:
                                                                  1,261 mL
                                                                    510 mL
   PO:
                                                                    640 mL
   TF:
   IVF:
                                                                    621 mL
                                                                    200 mL
   Blood products:
                                                                    310 mL
   Total out:
                                                                  1,290 mL
                                                                    620 mL
   Urine:
                                                                  1,290 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -29 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: 7.39/37/161/23/-1
   PaO2 / FiO2: 322
   Physical Examination
   GEN: Obese male, mild respiratory distress, speaking in full sentances
   HEENT: EOMI, PERRL, scleral injection R eye lateral
   NECK: JVP 12cm, negative kussmauls
   CHEST: R lung diffuse ronchi throughout that do not clear upon
   coughing, L lung rales at base
   CV: Tachycardic, RR, S1S2, no m/r/g
   ABD: Soft/NT/ND, Obese, negative [**Doctor Last Name **] sx, +BS
   EXT: Warm, 3+ pitting edema bilaterally, 2+ DPs
   Neuro: grossly normal
   Lines: Hickman triple lumen, c/d/i, no tenderness
   Labs / Radiology
   50 K/uL
   8.4 g/dL
   172 mg/dL
   1.6 mg/dL
   23 mEq/L
   4.5 mEq/L
   31 mg/dL
   113 mEq/L
   145 mEq/L
   26.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2184-10-18**]  06:08 PM
                             [**2184-10-19**]  04:05 AM
                             [**2184-10-19**]  04:33 AM
                             [**2184-10-19**]  10:48 PM
                             [**2184-10-19**]  11:13 PM
                             [**2184-10-20**]  02:21 AM
                             [**2184-10-20**]  05:00 AM
   WBC
   10.7
   6.8
   9.1
   Hct
   25.7
   27.6
   26.4
   Plt
   54
   43
   55
   50
   Cr
   1.8
   1.6
   1.6
   TCO2
   23
   27
   23
   Glucose
   123
   76
   172
   Other labs: PT / PTT / INR:12.9/27.8/1.1, ALT / AST:31/29, Alk Phos / T
   Bili:112/0.4, Differential-Neuts:86.2 %, Band:1.0 %, Lymph:6.9 %,
   Mono:6.0 %, Eos:0.8 %, Fibrinogen:428 mg/dL, Lactic Acid:1.3 mmol/L,
   LDH:269 IU/L, Ca++:7.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   A/P: Mr. [**Known lastname 1414**] is a 53 year old gentleman with a PMH significant
   for AML readmitted to FIU for GNR bacteremia and transient acute
   respiratory distress and hypoxemia in setting of his Hickman being
   flushed. .
   .
   # Bacteremia: Patient readmitted to [**Hospital Unit Name 44**] with GNR bacteremia.  Hickman
   removed overnight and patient now with PIVx2 and covered with
   amikacin and meropenem, in addition to vancomycin, atovaquone,
   voriconazole, and acyclovir.  Rigors and acute decompensation likely
   secondary to release of GNR into systemic vasculature during flushing
   of Hickman leading to transient SIRS.
   - Continue double coverage for GNR pending final speciation and
   sensitivities. Patient received one dose of amikacin, plan to continue.
   - Continue empiric coverage with vancomycin, continue with home
   atovaquone, voriconazole, and acylovir.
   - Follow-up with ID recs
   - Surveillance cultures
   - Trend fever curve, CBC
   - F/u cultures, urine Legionella and Histoplasma, serum galactomannan
   and beta-glucan
   .
   # RESPIRATORY DISTRESS: Patient with transient hypoxemia and
   hypercarbia in setting of flushing Hickman, again likely transient SIRS
   secondary to GNR release into systemic vasculature.  Respiratory status
   has since improved, although CXR demonstrates right-sided opacity
   predominantly in RLL.  Unclear at this time if this represents new
   pneumonia or transient collapse secondary to mucus plug. CXR this AM
   appears to be improved compared to yesterday.
   - Continue double coverage of GNR, vancomycin as above
   .
   # Chronic renal Insufficiency: Elevated Cr since [**Month (only) 705**]. Currently
   stable since last prior admission.  Unclear reason for his renal
   failure- per discharge summary from late [**Month (only) **] ?ATN with a renal
   ultrasound that was negative for hydro but no further workup performed.
   -send urinalysis w/ sediment
   - u/a and urine lytes
   -trend creatinine and renally dose medications
   .
   # Thrombocytopenia: Not acute. Currently within baseline levels. Likely
   secondary to malignancy
   - will follow
   - transfuse if less than 10 or for active bleeding
   .
   # ANEMIA: also secondary to malignancy, baseline hct between 26-33.
   -continue to trend hct and transfuse for hct < 25
   .
   # AML: S/p cord transplant now in remission
   -f/u heme onc recs
   .
   # PAIN: continue home neurontin 300mg po bid (renally dosed) and
   oxycodone prn.
   .
   # BOOP: On chronic steroids and cellcept
   - continue steroid treatment with hydrocort 50mg IV q8hrs
   -earlier in year has had ARDS and respiratory failure associated with
   BOOP
   .
   # Aspergillosis:
   - continue voriconazole 300mg po q12hrs
   .
   # HTN:
   - holding carvedilol and lisinopril given bacteremia and risk for
   hypotension / shock
   -can continue his aspirin 81mg daily
   .
   # Sarcoid: not currently on treatment
   .
   # FEN: NPO for now given possible need for intubation
   -on steroids, will place on insulin sliding scale, also on glargine 5
   units [**Last Name (LF) **], [**First Name3 (LF) 178**] continue at a dose of 3 units [**First Name3 (LF) **] given NPO for now
   .
   # PPX: Acyclovir 400mg po bid, Atovaquone 1500mg po daily,
   Pantoprazole, no sc heparin due to plts, pneumoboots
   .
   CODE: FULL
   .
   CONTACT: Wife, H [**Telephone/Fax (1) 1421**], C [**Telephone/Fax (1) 5854**]
   .
   DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-10-20**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-10-22 06:40:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress, bacteremia
   24 Hour Events:
   [**10-21**]
   - Started on TMP/SMX for possible stenotrophomonas
   - Started on carvedilol
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Amikacin - [**2184-10-19**] 10:05 PM
   Vancomycin - [**2184-10-20**] 08:00 AM
   Meropenem - [**2184-10-20**] 12:08 PM
   Tobramycin - [**2184-10-20**] 02:00 PM
   Ceftazidime - [**2184-10-21**] 07:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-10-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-22**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.3
   HR: 83 (77 - 114) bpm
   BP: 136/88(100) {120/66(81) - 171/104(119)} mmHg
   RR: 19 (14 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111 kg (admission): 111 kg
                  Total In:
                                                                  2,426 mL
                  PO:
                                                                  2,110 mL
                  TF:
   IVF:
                                                                    316 mL
   Blood products:
   Total out:
                                                                  3,440 mL
                                                                    350 mL
   Urine:
                                                                  3,440 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,014 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: 7.51/32/157/27/3
   PaO2 / FiO2: 393
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   52 K/uL
   8.0 g/dL
   118 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.3 mEq/L
   33 mg/dL
   109 mEq/L
   141 mEq/L
   24.8 %
   8.3 K/uL
        [image002.jpg]
                             [**2184-10-19**]  04:05 AM
                             [**2184-10-19**]  04:33 AM
                             [**2184-10-19**]  10:48 PM
                             [**2184-10-19**]  11:13 PM
                             [**2184-10-20**]  02:21 AM
                             [**2184-10-20**]  05:00 AM
                             [**2184-10-20**]  09:37 AM
                             [**2184-10-21**]  04:33 AM
                             [**2184-10-21**]  03:04 PM
                            [**2184-10-22**]  05:17 AM
   WBC
   10.7
   6.8
   9.1
   7.4
   8.3
   Hct
   25.7
   27.6
   26.4
   24.1
   24.8
   Plt
   54
   43
   55
   50
   59
   53
   52
   Cr
   1.8
   1.6
   1.6
   1.4
   1.5
   TCO2
   27
   23
   26
   Glucose
   123
   76
   172
   161
   118
   Other labs: PT / PTT / INR:13.2/26.2/1.1, ALT / AST:31/29, Alk Phos / T
   Bili:112/0.4, Differential-Neuts:81.6 %, Band:1.0 %, Lymph:10.3 %,
   Mono:7.3 %, Eos:0.6 %, Fibrinogen:428 mg/dL, Lactic Acid:1.5 mmol/L,
   LDH:269 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR ([**10-21**]): Improving aeration.
   Microbiology: Blood: NGTD from [**10-20**]-present, 10/6-7 GNR
   Assessment and Plan
   Mr. [**Known lastname 1414**] is a 53 year old gentleman with a PMH significant for
   AML readmitted to FIU for GNR bacteremia and transient acute
   respiratory distress and hypoxemia in setting of his Hickman being
   flushed.
   .
   # Bacteremia: Patient readmitted to [**Hospital Unit Name 44**] with GNR bacteremia.  Hickman,
   which was the likely source, has been removed with tip culture without
   significant growth.  Patient with blood cultures NGTD since [**10-20**].  3
   sets of blood cultures from 10/6-7 positive for GNR likely
   Stenotrophomonas resistant to meropenem and tobramycin but sensitive to
   TMP/SMX and ceftazidime. Patient continues to be hemodynamically
   stable.
   - Continue ceftazidime and TMP/SMX for GNR coverage
   - Continue voriconazole, atovaquone, and acyclovir
   - Surveillance cultures with AML
   - Trend fever curve and WBC
   - Follow-up with ID regarding duration of antimicrobial therapy.
   .
   # Hypoxemia/respiratory distress: Patient with increased supplemental
   oxygen requirement from baseline.  Currently on face mask for breathing
   treatment, but was down to high flow nasal cannula overnight. Increased
   oxygen requirement likely multifactorial including prior intrinsic lung
   disease, early ARDS, and fluid overload.  Patient was net -1014cc
   yesterday, CXR this AM largely unimproved from yesterday.
   - Check ABG
   - Titrate supplemental O2
   - Continue diuresis with home lasix dose.
   .
   # Chronic renal Insufficiency: Elevated Cr since [**Month (only) 705**]. Currently
   stable since last prior admission.  Unclear etiology to renal failure,
   but patient has had negative renal ultrasound during last admission.
   - Trend creatinine
   - Avoid nephrotoxins, renally dose meds
   .
   # Thrombocytopenia: Currrently at baseline levels. Likely secondary to
   malignancy.
   - will follow
   - transfuse if plt<10 or if active bleeding
   .
   # Anemia: Baseline hct 25-30. Hct this AM 24.1.
   - Trend hct, transfuse for hct<21.
   .
   # AML: S/p cord transplant now in remission. Follow-up with onc recs.
   .
   # PAIN: continue home neurontin 300mg po bid (renally dosed) and
   oxycodone prn.
   .
   # BOOP: Continue steroids and cellcept.
   .
   # Aspergillosis:
   - continue voriconazole 300mg po q12hrs
   .
   # HTN:
   - Restart carvedilol today
   - Hold lisinopril and restart tomorrow if hemodynamically stable.
   - Restart lasix today, net balance goal of -1000cc
   .
   # FEN: Regular, replete as necessary
   .
   # PPX: SCDs and PPI
   .
   # CODE: FULL
   .
   # CONTACT: Wife, H [**Telephone/Fax (1) 1421**], C [**Telephone/Fax (1) 5854**]
   .
   # DISPO: ICU level of care for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-10-20**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-10-23 07:04:00 Physician Resident Progress Note
Chief Complaint: Bacteremia
   24 Hour Events:
   - Bactrim dose adjusted for appropriate treatment of steno (15mg/kg
   divided TID)
   - No new culture data
   - Ceftaz discontinued
   - At 2230, fluid balance -1.2L
   History obtained from Patient
   Allergies:
   History obtained from PatientBenadryl Allergy (Oral) (Diphenhydramine
   Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Vancomycin - [**2184-10-20**] 08:00 AM
   Meropenem - [**2184-10-20**] 12:08 PM
   Tobramycin - [**2184-10-20**] 02:00 PM
   Ceftazidime - [**2184-10-22**] 08:17 AM
   Bactrim (SMX/TMP) - [**2184-10-22**] 11:25 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-10-22**] 08:12 AM
   Insulin - Regular - [**2184-10-22**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Tachycardia
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-10-23**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.1
C (97
   HR: 83 (69 - 96) bpm
   BP: 126/72(85) {117/68(81) - 152/94(106)} mmHg
   RR: 27 (20 - 36) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111 kg (admission): 111 kg
   Height: 71 Inch
                  Total In:
                                                                  3,040 mL
                  PO:
                                                                  1,930 mL
                  TF:
   IVF:
                                                                  1,110 mL
   Blood products:
   Total out:
                                                                  3,750 mL
                                                                  1,450 mL
   Urine:
                                                                  3,750 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -710 mL
                                                                 -1,450 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 92%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar R>L, Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   61 K/uL
   8.2 g/dL
   118 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.3 mEq/L
   33 mg/dL
   109 mEq/L
   141 mEq/L
   24.8 %
   8.3 K/uL
        [image002.jpg]
                             [**2184-10-19**]  04:33 AM
                             [**2184-10-19**]  10:48 PM
                             [**2184-10-19**]  11:13 PM
                             [**2184-10-20**]  02:21 AM
                             [**2184-10-20**]  05:00 AM
                             [**2184-10-20**]  09:37 AM
                             [**2184-10-21**]  04:33 AM
                             [**2184-10-21**]  03:04 PM
                            [**2184-10-22**]  05:17 AM
                            [**2184-10-23**]  05:34 AM
   WBC
   6.8
   9.1
   7.4
   8.3
   8.3
   Hct
   27.6
   26.4
   24.1
   24.8
   24.8
   Plt
   43
   55
   50
   59
   53
   52
   61
   Cr
   1.6
   1.6
   1.4
   1.5
   TCO2
   27
   23
   26
   Glucose
   76
   172
   161
   118
   Other labs: PT / PTT / INR:13.2/26.2/1.1, ALT / AST:31/29, Alk Phos / T
   Bili:112/0.4, Differential-Neuts:81.6 %, Band:1.0 %, Lymph:10.3 %,
   Mono:7.3 %, Eos:0.6 %, Fibrinogen:428 mg/dL, Lactic Acid:1.5 mmol/L,
   LDH:269 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 CRYPTOGENIC ORGANIZING PNEUMONIA (INCLUDE BRONCHIOLITIS OBLITERANS
   ORGANIZING PNEUMONIA, BOOP, COP)
 .H/O TRANSPLANT, BONE MARROW (BMT)
 .H/O CELLULITIS
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   Mr. [**Known lastname 1414**] is a 53 year old gentleman with a PMH significant for
   AML readmitted to FIU for GNR bacteremia and transient acute
   respiratory distress and hypoxemia in setting of his Hickman being
   flushed.
   .
   # Bacteremia: Patient readmitted to [**Hospital Unit Name 44**] with GNR bacteremia.  Hickman,
   which was the likely source, has been removed with tip culture without
   significant growth.  Patient with blood cultures NGTD since [**10-20**].
   Multiple sets of blood cultures from 10/6-7 positive for GNR speciated
   as Stenotrophomonas sensitive to TMP/SMX & ceftazidime.
   - Discussed with ID, and will continue with TMP/SMX (dosed 15mg/kg)
   and d/ced ceftazidime.
   - Continue voriconazole, atovaquone, and acyclovir.
   - Surveillance cultures with AML
   - Follow-up culture data
   - Follow-up with ID recs
   - f/u sputum cx
   .
   # Hypoxemia/respiratory distress: Patient with increased supplemental
   oxygen requirement from baseline (home 02 1.5L at rest, 3L
   ambulating).  Currently on face mask for breathing treatment, but also
   on 3.0L nasal cannula overnight. Increased oxygen requirement likely
   multifactorial including prior intrinsic lung disease, [**Doctor Last Name **], and fluid
   overload.  Patient was net -1070cc yesterday, CXR this AM did not show
   significant change and respiratory status slightly improved. .
   - Titrate supplemental O2 as possible
   - Continue diuresis with home lasix dose, net goal of -1000cc.
   - t/c CT-chest if does not improve with diuresis due to h/o of  BOOP or
   other possible acute etiology.
   .
   # Chronic renal Insufficiency: Elevated Cr since [**Month (only) 705**]. Currently
   stable since last prior admission. Today Cr 1.7, elevated from 1.5
   yesterday.  Near recent baseline. Unclear etiology to renal failure,
   but patient has had negative renal ultrasound during last admission.
   Increase likely due to diuresis and intravascular depletion.
   - Trend creatinine
   - Avoid nephrotoxins, renally dose meds
   .
   # Thrombocytopenia: Currrently at baseline levels. Likely secondary to
   malignancy.
   - Trend plt
   - transfuse if plt<10 or if active bleeding
   .
   # Anemia: Baseline hct 25-30. Hct this AM 24.1.
   - Trend hct, transfuse for hct<21.
   .
   # AML: S/p cord transplant now in remission. Follow-up with onc recs.
   .
   # PAIN: continue home neurontin 300mg po bid (renally dosed) and
   oxycodone prn.
   .
   # BOOP: Continue steroids and cellcept.
   - t/c CT-chest if does not improve
   .
   # Aspergillosis:
   - continue voriconazole 300mg po q12hrs
   .
   # HTN: Cont carvedilol and furosemide.
   - Can restart lisinopril.
   .
   # FEN: Regular, replete as necessary
   .
   # PPX: SCDs and PPI
   .
   # CODE: FULL
   .
   # CONTACT: Wife, H [**Telephone/Fax (1) 1421**], C [**Telephone/Fax (1) 5854**]
   .
   # DISPO: When oxygen requirement is near baseline can call to floor.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2184-10-19**] 10:00 PM
   20 Gauge - [**2184-10-22**] 10:30 PM
   Prophylaxis:
   DVT: Boots,
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2184-10-23 11:36:00 Physician Attending Progress Note
24 Hour Events:
   Overall he is clinically stable without significant change from
   yesterday.  He continues to diurese, but has minimal improvement in his
   oxygenation.  Otherwise, afebrile and hemodynamically stable.
   Allergies:
   Benadryl Allergy (Oral) (Diphenhydramine Hcl)
   urinary retenti
   Ambisome (Intraven.) (Amphotericin B Liposome)
   Back pain;
   Flomax (Oral) (Tamsulosin Hcl)
   Cough; rhinorrh
   Last dose of Antibiotics:
   Meropenem - [**2184-10-20**] 12:08 PM
   Tobramycin - [**2184-10-20**] 02:00 PM
   Ceftazidime - [**2184-10-22**] 08:17 AM
   Bactrim (SMX/TMP) - [**2184-10-23**] 08:00 AM
   Other ICU medications:
   Insulin - Regular - [**2184-10-22**] 09:30 PM
   Other medications:
   Lasix 40mg daily
   Prednisone 20mg daily
   Atovaquone
   Acyclovir
   ASA 81mg daily
   Voriconazole
   Neurontin
   Cellcept
   Flowsheet Data as of  [**2184-10-23**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 72 (69 - 96) bpm
   BP: 139/87(99) {117/72(85) - 154/94(106)} mmHg
   RR: 22 (18 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111 kg (admission): 111 kg
   Height: 71 Inch
             Total In:
                                                                  3,040 mL
                                                                    500 mL
   PO:
                                                                  1,930 mL
             TF:
   IVF:
                                                                  1,110 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  4,110 mL
                                                                  1,865 mL
   Urine:
                                                                  4,110 mL
                                                                  1,865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,070 mL
                                                                 -1,365 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool 4L NC + FM
   SpO2: 97%
   Physical Examination
   Gen:  Appears well; in no acute distress
   Chest:  Crackles Bibasilar
   CV:  RRR without m/g
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   8.2 g/dL
   61 K/uL
   80 mg/dL
   1.7 mg/dL
   29 mEq/L
   4.1 mEq/L
   30 mg/dL
   107 mEq/L
   141 mEq/L
   24.8 %
   8.3 K/uL
        [image002.jpg]
                             [**2184-10-19**]  04:33 AM
                             [**2184-10-19**]  10:48 PM
                             [**2184-10-19**]  11:13 PM
                             [**2184-10-20**]  02:21 AM
                             [**2184-10-20**]  05:00 AM
                             [**2184-10-20**]  09:37 AM
                             [**2184-10-21**]  04:33 AM
                             [**2184-10-21**]  03:04 PM
                            [**2184-10-22**]  05:17 AM
                            [**2184-10-23**]  05:34 AM
   WBC
   6.8
   9.1
   7.4
   8.3
   8.3
   Hct
   27.6
   26.4
   24.1
   24.8
   24.8
   Plt
   43
   55
   50
   59
   53
   52
   61
   Cr
   1.6
   1.6
   1.4
   1.5
   1.7
   TCO2
   27
   23
   26
   Glucose
   76
   172
   161
   118
   80
   Other labs: PT / PTT / INR:13.2/26.2/1.1, ALT / AST:31/29, Alk Phos / T
   Bili:112/0.4, Differential-Neuts:81.6 %, Band:1.0 %, Lymph:10.3 %,
   Mono:7.3 %, Eos:0.6 %, Fibrinogen:428 mg/dL, Lactic Acid:1.5 mmol/L,
   LDH:269 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   1) ID:  + stenotrophomonas bacteremia.  Currently HD stable and
   afebrile.  No leukocytosis.
   - Continue bactrim IV per ID
   - f/u any ID recs
   - Will send sputum culture
   2) Hypoxemia: suspect mild ARDS related to bacteremia.  However, with
   history of BOOP, is more concerning.  Will trial of weaning O2 today if
   unable to make any progress, will consider repeat imaging with
   non-contrast chest CT.
   - Continue diuresis as he is tolerating.  TBB negative 1-1.5L today
   with lasix.
   - Wean O2 as tolerates
   - non-contrast CT today if unable to make any progress on oxygenation
   despite significant diuresis.
   3) h/o BOOP:
   - continues on prednisone/cellcept
   4) H/o aspergillus:
   - continue voriconazole
   ICU Care
   Nutrition: Diet
   Glycemic Control:  Sliding scale insuline
   Lines:
   18 Gauge - [**2184-10-19**] 10:00 PM
   20 Gauge - [**2184-10-22**] 10:30 PM
   Prophylaxis:
   DVT: boots; thrombocytopenia
   Stress ulcer:   PPI
   Code status: Full code
   Disposition :  Given tenuous oxygenation, will remain in MICU until he
   shows improvement
 will reassess later today.